US04918074
A mixture of 50 g of methyl 2-acetyl-3-(2-thienyl)acrylate, 20 g of 3-amino-1,2,4-triazole and 300 ml of ethanol is heated under reflux for 4 hours. The precipitated white crystals are collected by filtration to give 29.5 g of 6-methoxycarbonyl-5-methyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine, melting at 239°-240° C.

reactant | methyl 2-acetyl-3-(2-thienyl)acrylate | 50 g | C(C)(=O)C(C(=O)OC)=CC=1SC=CC1 | C10H10O3S
reactant | 3-amino-1,2,4-triazole | 20 g | NC1=NNC=N1 | C2H4N4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-methoxycarbonyl-5-methyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine | 29.5 g | COC(=O)C1=C(NC=2N(C1C=1SC=CC1)N=CN2)C | C12H12N4O2S
